US05321027
In a manner analogous to that described in Example 5, the 1-[2-chloro-4-(N-benzyloxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride obtained in accordance with Example 17 is methylated with 0.8 g of methyl iodide, yielding 1-[2-chloro-4-(N-benzyloxycarbonyl-N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride.

reactant | 1-[2-chloro-4-(N-benzyloxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride | Cl.ClC1=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC(=C1)NC(=O)OCC1=CC=CC=C1
reactant | methyl iodide | 0.8 g | CI | CH3I
product | 1-[2-chloro-4-(N-benzyloxycarbonyl-N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride | Cl.ClC1=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC(=C1)N(C)C(=O)OCC1=CC=CC=C1 | InChI=1S/C28H29Cl2N3O3.ClH/c1-31(28(35)36-20-22-5-3-2-4-6-22)24-11-12-25(26(30)19-24)27(34)33-17-15-32(16-18-33)14-13-21-7-9-23(29)10-8-21;/h2-12,19H,13-18,20H2,1H3;1H
